US05077408
Stage A: 3-benzoylamino-2-chloropyridine
3.9 g (28 mmol) of benzoyl chloride are added to 30 ml of pyridine while the temperature is maintained at approximately -5° C. A solution containing 3 g (23.3 mmol) of 3-amino-2-chloropyridine in 20 ml of pyridine is added to this solution using a pressure equalizing funnel. The reaction medium is left stirring overnight and then poured into a water/ice mixture. The solid obtained is then filtered off, washed several times with water and thereafter recrystallized in absolute ethanol.

reactant | benzoyl chloride | 28 mmol, 3.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-amino-2-chloropyridine | 23.3 mmol, 3 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-benzoylamino-2-chloropyridine | C(C1=CC=CC=C1)(=O)NC=1C(=NC=CC1)Cl | C12H9ClN2O
